US09290785B2
5 ml 0.1% L-tryptophan (m/v)
10 ml 8% arginine (m/v), 0.4% histidine (m/v)

reactant | histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
solvent | arginine | 10 ml | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
